US05783522
3-Chloro-2-[4-chloro-3-bis(methylsulfonyl)aminophenyl]-5-trifluoromethylpyridine (Table 1, Example I.067)
2.4 g (21.0 mmol) of methanesulfonyl chloride were slowly added dropwise to a mixture of 3.0 g (9.77 mmol) of 2-(3-amino-4-chlorophenyl)-3-chloro-5-trifluoromethylpyridine, 2.2 g (22.4 mmol) of triethylamine and 50 ml of anhydrous methylene chloride at 0°-5° C. The mixture was stirred at 20°-25° C. for about 15 hours and then washed twice with water, dried over sodium sulfate and finally concentrated. The residue was stirred with ether, filtered off with suction and dried under reduced pressure. Yield: 3.6 g (87%) of colorless crystals of melting point 230°-231° C.

reactant | methanesulfonyl chloride | 21.0 mmol, 2.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(3-amino-4-chlorophenyl)-3-chloro-5-trifluoromethylpyridine | 9.77 mmol, 3.0 g | NC=1C=C(C=CC1Cl)C1=NC=C(C=C1Cl)C(F)(F)F | C12H7Cl2F3N2
reactant | triethylamine | 22.4 mmol, 2.2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-Chloro-2-[4-chloro-3-bis(methylsulfonyl)aminophenyl]-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)N(S(=O)(=O)C)S(=O)(=O)C | C14H11Cl2F3N2O4S2
